### PR TITLE
differentiable rsubmx/lsubmx lemmas + derive_sqrt

### PR DESCRIPTION
**Pull request by yosakaon**
##### Motivation for this change

When deriving differential equations using lsubmx/rsubmx, we need proofs of their differentiability.
This PR also contains a lemma making use of the "is_derive1_sqrt" lemma to simply derive square roots.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Review by affeldt-aist — APPROVED** [review]
There is certainly more theory to better develop but we'll be coming back to it soon so that is good enough for me now.

File: theories/derive.v [hunk 1]
```diff
@@ -760,6 +760,20 @@ move=> dfx dgfx; apply: DiffDef; first exact: differentiable_comp.
...
+move=> df; apply: differentiable_comp => //.
+exact/linear_differentiable/continuous_rsubmx.
+Qed.
+
+Lemma differentiable_lsubmx m {n1 n2} (f : V -> 'M[R]_(m, n1 + n2)) v :
+  (forall x, differentiable f x) -> differentiable (lsubmx \o f) v.
+Proof.
+move=> df1; apply: differentiable_comp => //.
+exact/linear_differentiable/continuous_lsubmx.
+Qed.
```
Comment (t6s) [inline theories/derive.v]: These names do not exactly match their statements. Suggested change:
```
Lemma differentiable_rsubmx m {n1 n2} v : differentiable (@rsubmx R m n1 n2) v.
Proof. exact/linear_differentiable/continuous_rsubmx. Qed.

Lemma differentiable_lsubmx m {n1 n2} v : differentiable (@lsubmx R m n1 n2) v.
Proof. exact/linear_differentiable/continuous_lsubmx. Qed.
```

Comment (t6s) [reply theories/derive.v]: annotating types as in `continuous_?submx` might look better

**Review by t6s — COMMENTED** [review]
I suggest changing the statements of `differentiable_?submx` and letting users combine it with other functions explicitly by `differentiable_comp`.
